US05093370
To 31.2 g of 1.5-pentanediol was added 380 mg of p-toluenesulfonic acid monohydride and dropwise 8.4 g of dihydropyran with ice-cooling and stirring over 20 minutes, and the mixture was stirred at a room temperature for 3.5 hours. After adding 300 ml of chloroform, the mixture was washed with 2% sodium bicarbonate aqueous solution, water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, filtered and evaporated under a reduced pressure. The residue was applied to a silica gel column and eluted with hexane/ethyl acetate (3:1) to obtain 6.0 g of 2-(5-hydroxypentyloxy)tetrahydropyran as a colorless liquid.

reactant | 1.5-pentanediol | 31.2 g | C(CCCCO)O | C5H12O2
reactant | dihydropyran | 8.4 g | O1CCCC=C1 | C5H8O
catalyst | p-toluenesulfonic acid monohydride | 380 mg | C1(=CC=C(C=C1)S(=O)=O)C | C7H8O2S
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-hydroxypentyloxy)tetrahydropyran | 6.0 g | OCCCCCOC1OCCCC1 | C10H20O3
